US05571821
To a solution of 3-bromothiophene (8.15 g, 50 mmol) in THF (20 ml) at -78° C. under an argon atmosphere was added n-butyllithium (2.5M solution in hexane, 20 ml, 50 mmol) dropwise and the resultant solution was stirred at -78° C. for 45 min. This solution was added to a solution of triisopropyl borate (9.4 g, 50 mmol) in THF at -78° C. over 30 min through a steel cannula. The resultant reaction mixture was stirred at room temperature for 12 h and was decomposed by the addition of 100 ml 1N HCl. The aqueous layer was extracted with ether (2×100 ml) and the combined organic layer was extracted with 1M NaOH (3×30 ml), the aqueous extract was acidified with concentrated HCl to pH 2 and extracted with ether (3×50 ml). The combined ether extract was washed once with water, dried over MgSO4 and filtered. Removal of the solvent gave 3-thenylboronic acid as a solid (5.2 g, 80% yield).

reactant | 3-bromothiophene | 50 mmol, 8.15 g | BrC1=CSC=C1 | C4H3BrS
reactant | n-butyllithium | 50 mmol, 2.5M, 20 ml | C(CCC)[Li]
reactant | triisopropyl borate | 50 mmol, 9.4 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-thenylboronic acid | 5.2 g, 80% yield | C1=C(C=CS1)CB(O)O | C5H7BO2S
